US08669375B2
Toluene (100 ml), ethanol (10.12 g, 219.65 mmol) and 5-chlorovaleric acid (25 g, 183.04 mmol) were added into a 200-ml flask in this order at room temperature and then p-toluenesulfonic acid monohydrate (5.22 g, 27.46 mmol) was charged thereto. The solution was gently heated and subjected to reflux dehydration for 3 to 5 hours. After reflux dehydration, the solution was cooled to around room temperature, added with triethylamine (4.63 g, 45.76 mmol) at room temperature, stirred and then added with silica gel. After stirring for a while, the silica gel was filtered off. After the solvent of the filtrate was removed in vacuum distillation, ethyl 5-chlorovalerate (21.54 g, 72%) was isolated in distillation.

reactant | ethanol | 219.65 mmol, 10.12 g | C(C)O | C2H6O
reactant | 5-chlorovaleric acid | 183.04 mmol, 25 g | ClCCCCC(=O)O | C5H9ClO2
reactant | p-toluenesulfonic acid monohydrate | 27.46 mmol, 5.22 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethylamine | 45.76 mmol, 4.63 g | C(C)N(CC)CC | C6H15N
solvent | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 5-chlorovalerate | 21.54 g, 72% | ClCCCCC(=O)OCC | C7H13ClO2
